US06995162B2
Step B—Synthesis of N-(4-imidazolylphenyl){2-[(4-pyridylmethyl)amino](3-pyridyl)}carboxamide hydrochloride
(2-Chloro-(3-pyridyl))-N-(4-imidazolylphenyl)-carboxamide was treated with 4-aminomethylpyridine (0.100 g, 0.93 mmol) and heated neat at 120° C. for 18 h. After cooling to RT, the material was purified by preparative HPLC. The final product was converted into an HCl salt by dissolution in a minimum of MeOH, treatment with an HCl ethereal solution, and evaporation of solvent. MS: (ES+) 371 (M+1)+; (ES−) : 369 (M−1)−. Calc'd. for C21H18N6O—370.15.

reactant | (2-Chloro-(3-pyridyl))-N-(4-imidazolylphenyl)-carboxamide | ClC1=NC=CC=C1C(=O)NC1=CC=C(C=C1)C=1NC=CN1 | C15H11ClN4O
reactant | 4-aminomethylpyridine | 0.93 mmol, 0.100 g | NCC1=CC=NC=C1 | C6H8N2
product | N-(4-imidazolylphenyl){2-[(4-pyridylmethyl)amino](3-pyridyl)}carboxamide hydrochloride | Cl.N1C(=NC=C1)C1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)NCC1=CC=NC=C1 | InChI=1S/C21H18N6O.ClH/c28-21(27-17-5-3-16(4-6-17)19-24-12-13-25-19)18-2-1-9-23-20(18)26-14-15-7-10-22-11-8-15;/h1-13H,14H2,(H,23,26)(H,24,25)(H,27,28);1H
